US04214094
A solution of 5 g of ethyl 2-[4-(4-chloroanilinomethyl)phenoxy]-2-methylpropionate in 50 ml of ether is dropwise added to a suspension of 775 mg of lithium aluminum hydride in 50 ml of anhydrous ether under 10° C. with stirring and the mixture is stirred for 2 hours at the same temperature. To the resultant mixture is dropwise added 60 ml of 10% ammonium chloride aqueous solution at 5° to 10° C. An insoluble material is filtered off and the ether layer is separated. The aqueous layer is further extracted with ether and both of the ether layers are combined. The combined ether solution is washed with a saturated sodium chloride aqueous solution and dried. The solvent is distilled off and the residue is washed with diisopropyl ether and dried to give 3.5 g of 2-[4-(4-chloroanilinomethyl)phenoxy]-2-methylpropanol, mp 84° to 91° C. This material is recrystallized from diisopropyl ether to give pure compound, mp 92° to 93° C.

reactant | ethyl 2-[4-(4-chloroanilinomethyl)phenoxy]-2-methylpropionate | 5 g | ClC1=CC=C(NCC2=CC=C(OC(C(=O)OCC)(C)C)C=C2)C=C1 | C19H22ClNO3
reactant | lithium aluminum hydride | 775 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | 60 ml | [Cl-].[NH4+]
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 2-[4-(4-chloroanilinomethyl)phenoxy]-2-methylpropanol | 3.5 g | ClC1=CC=C(NCC2=CC=C(OC(CO)(C)C)C=C2)C=C1 | C17H20ClNO2
